US07842713B2
Preparation of Intermediate 280a: Ethyl 2-methyl-4-{[5-(methylsulfonyl)pyridin-2-yl]oxy}-1-benzofuran-6-carboxylate
A mixture of ethyl 4-hydroxy-2-methyl-1-benzofuran-6-carboxylate (500 mg, 2.27 mmol), 2-bromo-5-methanesulfonyl pyridine (590 mg, 2.57 mmol), Cs2CO3 (1.1 g, 4.12 mmol) and CuI (100 mg, 1 mmol) in DMF (20 mL) was heated to 100° C. for 4 hours. The solvent was removed under reduced pressure. The residue was poured into water (20 mL) and extracted with EtOAc (50 mL×2). The combined organic layer was washed with brine (20 mL×2), dried over Na2SO4 and concentrated. The product was purified via gradient silica gel chromatography on silica gel using EtOAc/Hex (10/90 to 30/70) to afford the title compound (830 mg, 88%) as a white solid. 1H NMR (300 MHz, CHLOROFORM-d) δ ppm 1.42 (t, J=7.16 Hz, 3 H) 2.48 (s, 3 H) 3.01-3.19 (m, 3 H) 4.41 (q, J=7.16 Hz, 2 H) 6.23 (d, J=0.94 Hz, 1 H) 7.02-7.18 (m, 2 H) 7.64 (d, J=1.13 Hz, 1 H) 7.85-7.96 (m, 1 H) 8.02-8.10 (m, 1 H); (ESI, pos): 376.

reactant | ethyl 4-hydroxy-2-methyl-1-benzofuran-6-carboxylate | 2.27 mmol, 500 mg | OC1=CC(=CC2=C1C=C(O2)C)C(=O)OCC | C12H12O4
reactant | 2-bromo-5-methanesulfonyl pyridine | 2.57 mmol, 590 mg | BrC1=NC=C(C=C1)S(=O)(=O)C | C6H6BrNO2S
reactant | Cs2CO3 | 4.12 mmol, 1.1 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
catalyst | CuI | 1 mmol, 100 mg | [Cu]I
product | Ethyl 2-methyl-4-{[5-(methylsulfonyl)pyridin-2-yl]oxy}-1-benzofuran-6-carboxylate | 830 mg, 88% | CC=1OC2=C(C1)C(=CC(=C2)C(=O)OCC)OC2=NC=C(C=C2)S(=O)(=O)C | C18H17NO6S
